US04962145
Neopentyl glycol monomontanate
64.2 g neopentyl glycol (0.617 mole), 246.9 g montanic acid (0.617 mole) and 0.4 g tin powder were heated to 210° C. as in Example 1 with application of a gentle vacuum. The vacuum was increased to 150 mbar over a period of 5 h. The product had an acid number of approximately 2. A brown-yellow hard wax having a dropping point of 72° C. was obtained after cooling to 100° C., bleaching and filtering.

reactant | neopentyl glycol | 0.617 mole, 64.2 g | OCC(C)(CO)C | C5H12O2
reactant | montanic acid | 0.617 mole, 246.9 g | C(CCCCCCCCCCCCCCCCCCCCCCCCCCC)(=O)O | C28H56O2
reactant | tin | 0.4 g | [Sn] | Sn
product | Neopentyl glycol monomontanate | C(CCCCCCCCCCCCCCCCCCCCCCCCCCC)(=O)OCC(C)(CO)C | C33H66O3
